US03931277
225 g (1.60 moles) of chlorosulfonyl-isocyanate are added to a solution of 170 g (1.38 moles) of methanesulfonic acid ethylamide in 700 ml of chlorobenzene, and the whole is heated for 5 hours at a bath temperature of 150°C while passing nitrogen through the reaction vessel. Subsequently, 256 g (81 %) of methanesulfonyl-ethylamino-sulfonylisocyanate having a boiling point of 99° - 106°C/1 torr are isolated by distillation.

reactant | chlorosulfonyl-isocyanate | 1.60 moles, 225 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | methanesulfonic acid ethylamide | 1.38 moles, 170 g | C(C)NS(=O)(=O)C | C3H9NO2S
solvent | chlorobenzene | 700 ml | ClC1=CC=CC=C1 | C6H5Cl
product | methanesulfonyl-ethylamino-sulfonylisocyanate | 256 g, 81 % | CS(=O)(=O)N(S(=O)(=O)N=C=O)CC | C4H8N2O5S2
